US06458798B1
N-(2-Amino-5-benzylpyrimidine-4-yl)-N-pentylamine
A mixture of 5-benzyl-4-chloropyrimidine-2-ylamine (350 mg, 0.74 mmol), amylamine (0.74 ml) and dioxane (4 ml) was kept at 90-100° C. for 8 hours. The reaction mixture was concentrated in vacuo, and the residue was extracted with ether and a saturated aqueous NaHCO3 solution. The organic layer was washed with saturated brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel column chromatography (MeOH:CHCl3=70:1) to give the object compound (355 mg, 82.2%).

reactant | 5-benzyl-4-chloropyrimidine-2-ylamine | 0.74 mmol, 350 mg | C(C1=CC=CC=C1)C=1C(=NC(=NC1)N)Cl | C11H10ClN3
reactant | amylamine | 0.74 ml | C(CCCC)N | C5H13N
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | N-(2-Amino-5-benzylpyrimidine-4-yl)-N-pentylamine | 355 mg, 82.2% | NC1=NC=C(C(=N1)NCCCCC)CC1=CC=CC=C1 | C16H22N4
